US04024260
By the procedure of Example 4(i), 2-[(2-aminoethyl)-thiomethyl]thiazole (from the dihydrobromide, 4.0 g) is reacted with 1-nitro-2,2-bis-methylthioethylene (2.0 g) to give 1-nitro-2-methylthio-2-[(2-thiazolylmethylthio)ethylamino]-ethylene, m.p. 63°-64°.

reactant | 2-[(2-aminoethyl)-thiomethyl]thiazole | NCCSCC=1SC=CN1 | C6H10N2S2
reactant | 1-nitro-2,2-bis-methylthioethylene | 2.0 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
product | 1-nitro-2-methylthio-2-[(2-thiazolylmethylthio)ethylamino]-ethylene | [N+](=O)([O-])C=C(NCCSCC=1SC=CN1)SC | C9H13N3O2S3
